US05220042
500 Milligrams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(Z-6-undecenyl)benzene was dissolved in 10 ml of a mixed solvent of isopropanol-tetrahydrofuran, and at room temperature, under nitrogen gas stream conditions, 2 ml of isopropanol-tetrahydrofuran (1:1) solution containing 20% of hydrogen chloride was added thereto and the whole mixture was stirred for 3 hours. The solvent was removed by evaporating under reduced pressure on a water bath at below 20° C. The residue obtained was further treated by evaporation under reduced pressure with adding 20 ml of benzene so as to remove hydrogen chloride. The residue obtained was dissolved in 20 ml of methanol, and a small amount of sodium hydrogen carbonate was added, and the mixture was stirred for 1 hour under oxygen gas stream conditions. The color of the reaction mixture turned yellow, and the solvent was removed by evaporation under reduced pressure. The residue obtained was treated by means of a separative silica gel thin layer chromatography (F254, thickness: 2 mm, developer: 10% ethyl acetate-benzene) to obtain 320 mg of 2,5-dimethoxy-3(Z-6-undecenyl)-1,4-benzoquinone. Yellow oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(Z-6-undecenyl)benzene | COC1=C(C(=C(C(=C1)OCOC)OC)CCCCC\C=C/CCCC)OCOC | C23H38O6
reactant | hydrogen chloride | Cl | ClH
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | isopropanol tetrahydrofuran | C(C)(C)O.O1CCCC1
solvent | methanol | 20 ml | CO | CH4O
solvent | isopropanol tetrahydrofuran | 2 ml | C(C)(C)O.O1CCCC1
solvent | ethyl acetate benzene | C(C)(=O)OCC.C1=CC=CC=C1
product | 2,5-dimethoxy-3(Z-6-undecenyl)-1,4-benzoquinone | 320 mg | COC=1C(C=C(C(C1CCCCC\C=C/CCCC)=O)OC)=O | C19H28O4
